US04620865
Three grams of 5-bromo-1-phenyl-1H-pyrazole-4-carboxylic acid and 2.6 g of carbonyldiimidazole was dissolved in 50 ml of DMF. The solution was stirred for 20 minutes and 2.3 g of triethylamine and 1.8 g of dimethylamine hydrochloride were added to the reaction mixture. The mixture was stirred at room temperature for 3 hours and was poured into ice water. The precipitated solid was collected by filtration and recrystallized from ethanol/water to afford 1.2 g of 5-bromo-1-phenyl-N,N-dimethyl-1H-pyrazole-4-carboxamide. Yield 37%. mp=79°-81° C.

reactant | 5-bromo-1-phenyl-1H-pyrazole-4-carboxylic acid | Three grams | BrC1=C(C=NN1C1=CC=CC=C1)C(=O)O | C10H7BrN2O2
reactant | carbonyldiimidazole | 2.6 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | triethylamine | 2.3 g | C(C)N(CC)CC | C6H15N
reactant | dimethylamine hydrochloride | 1.8 g | Cl.CNC
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 5-bromo-1-phenyl-N,N-dimethyl-1H-pyrazole-4-carboxamide | 1.2 g, Yield 37% | BrC1=C(C=NN1C1=CC=CC=C1)C(=O)N(C)C | C12H12BrN3O
